US07902308B2
4.2—Synthesis of 2,4-bis(tert-butyl)-6-[[(2,3,4,5,6-pentafluorophenyl)amino]methyl]phenol—Compound (4)
Using an analogous procedure to the synthesis of 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)amino]methyl]phenol described above, NaBH4 (1.2 g) was added to a solution of 2,4-bis(tert-butyl)-6-[[(2,3,4,5,6-pentafluorophenyl)imino]methyl]phenol (0.5 g, 1.25 mmol). The product was isolated as an air sensitive white solid, and stored under nitrogen. Yield 0.48 g, 95%.

reactant | 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)amino]methyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)CNC1=C(C=CC=C1Br)Br)O | C21H27Br2NO
reactant | NaBH4 | 1.2 g | [BH4-].[Na+]
reactant | 2,4-bis(tert-butyl)-6-[[(2,3,4,5,6-pentafluorophenyl)imino]methyl]phenol | 1.25 mmol, 0.5 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=NC1=C(C(=C(C(=C1F)F)F)F)F)O | C21H22F5NO
product | 2,4-bis(tert-butyl)-6-[[(2,3,4,5,6-pentafluorophenyl)amino]methyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)CNC1=C(C(=C(C(=C1F)F)F)F)F)O | C21H24F5NO
